US04182870
The remainder of the solution of the 2-bromo-3-bromomethyl compound obtained was used as such in the following debromination process. To this solution which contained at most 14.4 mmoles of t-butyl 7-benzamido-2-bromo-3-bromomethyl-3-cephem-4-carboxylate 1-oxide, were added 14 ml (approximately 25 mmoles) of triisodecyl phosphite and the mixture was stirred for 30 minutes at room temperature. The reaction mixture was then washed with water, dried over magnesium sulfate and filtered. The filtrate was evaporated to dryness and upon addition of a small quantity of acetone, a brown precipitate was formed. Upon addition of diethyl ether, the brown precipitate was decolored almost completely and after standing for one night in the refrigerator, the precipitate was filtered off to obtain 3.0 g (44.6%) of t-butyl 7-benzamido-3-bromomethyl-3-cephem-4-carboxylate 1-oxide.

reactant | t-butyl 7-benzamido-2-bromo-3-bromomethyl-3-cephem-4-carboxylate 1-oxide | at most 14.4 mmoles | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(C(S2=O)Br)CBr)C(=O)OC(C)(C)C)C1=O | C19H20Br2N2O5S
reactant | triisodecyl phosphite | approximately 25 mmoles, 14 ml | P(OCCCCCCCC(C)C)(OCCCCCCCC(C)C)OCCCCCCCC(C)C | C30H63O3P
solvent | diethyl ether | C(C)OCC | C4H10O
product | t-butyl 7-benzamido-3-bromomethyl-3-cephem-4-carboxylate 1-oxide | 3.0 g, 44.6% | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2=O)CBr)C(=O)OC(C)(C)C)C1=O | C19H21BrN2O5S
